US03953496
By the procedure similar to that described in Example 21, methyl 2-amino-4-(2'-ethoxybenzamido)-benzoate and 2-ethoxybenzoylchloride were reacted and treated to obtain crystals. Recrystallization from acetone gave methyl 2,4-bis(2'-ethoxybenzamido)-benzoate having a melting point between 199° - 200°C.

reactant | methyl 2-amino-4-(2'-ethoxybenzamido)-benzoate | NC1=C(C(=O)OC)C=CC(=C1)NC(C1=C(C=CC=C1)OCC)=O | C17H18N2O4
reactant | 2-ethoxybenzoylchloride | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
product | methyl 2,4-bis(2'-ethoxybenzamido)-benzoate | C(C)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)NC(C2=C(C=CC=C2)OCC)=O)C=CC=C1 | C26H26N2O6
